US04115568
(p) Methyl 2-(4-fluoro-2-nitroanilino)-5-phenyl-thiophene-3-carboxylate
Methyl 2-amino-5-phenyl-thiophene-3-carboxylate and 2,5-difluoronitrobenzene, m.p. 150° C. (CH2Cl2).

reactant | Methyl 2-amino-5-phenyl-thiophene-3-carboxylate | NC=1SC(=CC1C(=O)OC)C1=CC=CC=C1 | C12H11NO2S
reactant | 2,5-difluoronitrobenzene | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-fluoro-2-nitroanilino)-5-phenyl-thiophene-3-carboxylate | FC1=CC(=C(NC=2SC(=CC2C(=O)OC)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C18H13FN2O4S
